US04452625
A solution of 17.75 g (0.075 mol) of 2-(4-chlorophenyl-ethenyl)-2-tert.-butyl-oxirane and 6.9 g (0.1 mol) of 1,2,4-triazole in 30 ml of ethanol was heated in a bomb tube at 150° C. for 20 hours. The reaction mixture was thereafter concentrated, and the crystalline residue was stirred with ether. The solid material was then filtered off under suction and was recrystallized from acetonitrile. 17.7 g (77% of theory) of 1-(4-chloro-phenyl)-4,4-dimethyl-3-(1,2,4-triazol-1-yl)-1-penten-3-ol of melting point 139°-141° C. were obtained.

reactant | 2-(4-chlorophenyl-ethenyl)-2-tert.-butyl-oxirane | 0.075 mol, 17.75 g | ClC1=CC=C(C=C1)C=CC1(OC1)C(C)(C)C | C14H17ClO
reactant | 1,2,4-triazole | 0.1 mol, 6.9 g | N1N=CN=C1 | C2H3N3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(4-chloro-phenyl)-4,4-dimethyl-3-(1,2,4-triazol-1-yl)-1-penten-3-ol | 17.7 g, 77% | ClC1=CC=C(C=C1)C=CC(C(C)(C)C)(O)N1N=CN=C1 | C15H18ClN3O
